US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-fluoro-phenylboronic acid to give [1-(4-fluoro-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 305(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 4-fluoro-phenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | [1-(4-fluoro-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | FC1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C18H13FN4
